US07759373B2
Under argon atmosphere, to a solution of 4-chloro-3-fluoro-benzaldehyde (10 g) in N,N-dimethylformamide (50 ml) was added sodium cyanide (620 mg) at room temperature, and the mixture was stirred at the same temperature for 3 hours. Then, to the mixture was added dropwise a solution of ethyl acrylate (5.2 ml) in N,N-dimethylformamide (25 ml), and the resulting mixture was stirred at the room temperature for 3 hours. The reaction mixture was poured into water and extracted with diethyl ether. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: hexane:ethyl acetate=20:1) to obtain ethyl 4-(4-chloro-3-fluorophenyl)-4-oxobutyrate (9.4 g) as pale yellowish powder.

reactant | 4-chloro-3-fluoro-benzaldehyde | 10 g | ClC1=C(C=C(C=O)C=C1)F | C7H4ClFO
reactant | sodium cyanide | 620 mg | [C-]#N.[Na+]
reactant | ethyl acrylate | 5.2 ml | C(C=C)(=O)OCC | C5H8O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(4-chloro-3-fluorophenyl)-4-oxobutyrate | 9.4 g | ClC1=C(C=C(C=C1)C(CCC(=O)OCC)=O)F | C12H12ClFO3
